US05763489
To a solution of diisopropylamine (17 ml) in THF (tetrahydrofuran) (210 ml) was added n-butyllithium (67 ml, 1.6N in hexane) at -78° C. under N2. The solution was stirred for 30 minutes at 0° C. and then cooled to -78° C. To the solution was added ethyl acetate (12 g) and the mixture was stirred for 30 minutes at the same temperature to give Li-enolate solution. A solution of 5-t-butyldiphenylsilyloxy-1-oxo-1,2,3,4-tetrahydronaphthalene (10 g) in THF (50 ml) was cooled to -78° C., the above Li-enolate solution (35 ml) was added, and stirred for 1 hour at the same temperature. The mixture was poured into a mixture of ethyl acetate and water. The organic layer was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 1-hydroxy-1-ethoxycarbonylmethyl-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (8.0 g). 2.72 (2H, t, J=6.6 Hz), 2.90 (2H, t, J=8.0 Hz), 4.30 (2H, t, J=7.0 Hz), 5.78 (1H, t, J=4.4 Hz), 6.33 (1H d, J=8 Hz), 6.6-6.9 (2H, m), 7.1-7.8 (20H, m) MS m/z: 624 (M+ +1)

reactant | 5-t-butyldiphenylsilyloxy-1-oxo-1,2,3,4-tetrahydronaphthalene | 10 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCCC(C2=CC=C1)=O | C26H28O2Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | 1-hydroxy-1-ethoxycarbonylmethyl-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 8.0 g | OC1(CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(=O)OCC | C30H36O4Si
